US07745438B2
4-(R)-[2-(S)-Amino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
Add nickel (II) chloride (6.0 g, 46.1 mmol) to a solution of 4-(R)-[3-(3-acetoxyphenyl)-1-(R)-hydroxy-2-(S)-nitropropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester (18.37 g, 41.9 mmol) in dry methanol (900 mL). Cool in an ice bath and portionwise sodium borohydride (6.34 g, 167.6 mmol) over 8 minutes. Stir for 10 minutes. And concentrate. Partition the residue between ethyl acetate (200 mL) and water (200 mL), filter through Celite® and wash with ethyl acetate. Wash the organic layer with saturated aqueous sodium chloride, combine aqueous washes and extract with ethyl acetate. Combine the organic layers, dry (magnesium sulfate), filter and concentrate to give the desired compound as a crude foam. Suspend the Celite® cake in ethyl acetate, filter, wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter and concentrate to obtain more desired compound.

reactant | 4-(R)-[3-(3-acetoxyphenyl)-1-(R)-hydroxy-2-(S)-nitropropyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 41.9 mmol, 18.37 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)OC(C)=O)[N+](=O)[O-])O)(C)C | C21H30N2O8
reactant | sodium borohydride | 167.6 mmol, 6.34 g | [BH4-].[Na+]
solvent | methanol | 900 mL | CO | CH4O
catalyst | nickel (II) chloride | 46.1 mmol, 6.0 g | [Ni](Cl)Cl
product | 4-(R)-[2-(S)-Amino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)O)N)O)(C)C | C19H30N2O5
